US04678792
2-(4-Methylbenzyl)-6,7-dimethoxy-3,4-dihydroisoquinolinium chloride
The title compound is prepared analogously to Example A from 6,7-dimethoxy-3,4-dihydro-isoquinoline and 4-methylbenzyl chloride in ethylene chloride. Melting point: 181°-183° C. (Decomp.)

reactant | 6,7-dimethoxy-3,4-dihydro-isoquinoline | COC=1C=C2CCN=CC2=CC1OC | C11H13NO2
reactant | 4-methylbenzyl chloride | CC1=CC=C(CCl)C=C1 | C8H9Cl
solvent | ethylene chloride | C(CCl)Cl | C2H4Cl2
product | 2-(4-Methylbenzyl)-6,7-dimethoxy-3,4-dihydroisoquinolinium chloride | [Cl-].CC1=CC=C(C[N+]2=CC3=CC(=C(C=C3CC2)OC)OC)C=C1 | InChI=1S/C19H22NO2.ClH/c1-14-4-6-15(7-5-14)12-20-9-8-16-10-18(21-2)19(22-3)11-17(16)13-20;/h4-7,10-11,13H,8-9,12H2,1-3H3;1H/q+1;/p-1
